US07544695B2
To a solution of methyl 6-chloronicontinate (200 mg, 1.16 mmol) in DMSO/PhMe (2 mL of a 1:1 solution) was added t-butyl-2,8-diazaspiro[4.5]decane-2-carboxylate (700 mg, 2.91 mmol). The reaction mixture was heated at 85° C. for 6 hours and then diluted with EtOAc (10 mL). The organic layer was washed with NaHCO3 (1×5 mL) and brine (1×5 mL), dried over Na2SO4, and then concentrated. The crude residue was purified by reverse-phase flash chromatography (10-100% MeCN/H2O with 0.05% TFA) to give t-butyl 8-[5-(methoxycarbonyl)pyridin-2-yl]-2,8-diazaspiro[4.5]decane-2-carboxylate: MS (ESI+): cal'd [M+H]+ 376.2, obs'd 376.2. This intermediate was then treated with TFA (3 mL) in CH2Cl2 (6 mL). The reaction mixture was concentrated after 30 minutes of stirring at room temperature and the crude residue was purified by reverse-phase flash chromatography (10-75% MeCN/H2O with 0.05% TFA) to give the methyl 6-(2,8-diazaspiro[4.5]dec-8-yl)nicotinate: MS (ESI+): cal'd [M+H]+ 276.2, obs'd 276.2.

reactant | t-butyl-2,8-diazaspiro[4.5]decane-2-carboxylate | 2.91 mmol, 700 mg | C(C)(C)(C)OC(=O)N1CC2(CC1)CCNCC2 | C13H24N2O2
reactant | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | DMSO PhMe | CS(=O)C.C1(=CC=CC=C1)C
product | t-butyl 8-[5-(methoxycarbonyl)pyridin-2-yl]-2,8-diazaspiro[4.5]decane-2-carboxylate | COC(=O)C=1C=CC(=NC1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C20H29N3O4
